US06509499B1
1.33 ml (16.4 mmol) of pyridine, dried over potassium hydroxide, and 2.54 g (12.3 mmol) of 4-methoxybenzenesulphonyl chloride are successively added to a solution, maintained under a nitrogen atmosphere, of 2.0 g (8.19 mmol) of 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline in 40 ml of anhydrous tetrahydrofuran. The reaction medium is stirred for 24 h at room temperature and is then maintained at 40° C. for 1 h, after which it is poured into a mixture of water and ice. The aqueous solution obtained is brought to pH 1 by addition of 1N hydrochloric acid and is extracted with methylene chloride. The combined organic extracts are washed with water, dried over sodium sulphate and concentrated to dryness under reduced pressure. The oily residue obtained is purified by chromatography on a column of silica (eluent: methylene chloride) and recrystallization from a mixture of hexane and ethyl acetate, to give 1.1 g (33%) of N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-4-methoxybenzenesulphonamide.

reactant | pyridine | 16.4 mmol, 1.33 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-methoxybenzenesulphonyl chloride | 12.3 mmol, 2.54 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline | 8.19 mmol, 2.0 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-4-methoxybenzenesulphonamide | 1.1 g, 33% | CC=1C=C(C=C(C1S(=O)(=O)C[N+](=O)[O-])C)NS(=O)(=O)C1=CC=C(C=C1)OC | C16H18N2O7S2
